US06831106B1
b) Ethyl 5′-[3,4-bis(1-phenylmethanoyloxymethyl)-benzyloxy]-2′-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 3.07 g (12 mmol) of ethyl 5′-hydroxy-2′-methylbiphenyl-4-carboxylate with 6.7 g (15 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 2 mg (14 mmol) of potassium carbonate, the desired product is obtained in the form of a colourless oil (m=5.7 g; Y=77%).

reactant | ethyl 5′-hydroxy-2′-methylbiphenyl-4-carboxylate | 12 mmol, 3.07 g | OC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)OCC)C | C16H16O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 15 mmol, 6.7 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 14 mmol, 2 mg | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 5′-[3,4-bis(1-phenylmethanoyloxymethyl)-benzyloxy]-2′-methylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)OCC)C)C=CC1COC(=O)C1=CC=CC=C1 | C39H34O7
